US04604407
5-[[(1-Heptenyl)carbonyl]methoxyamino]pentanoic acid
Following the procedure of Example 12 except substituting 1-heptenylcarboxylic acid for 1-decenylcarboxylic acid, and ethyl-5 iodovalerate for ethyl-4-iodobutyrate and eliminating the addition of dicyclohexylamine, the title compound is obtained.

reactant | 1-decenylcarboxylic acid | C(=CCCCCCCCC)C(=O)O | C11H20O2
reactant | ethyl-5 iodovalerate | C(C)OC(CCCCI)=O | C7H13IO2
reactant | ethyl-4-iodobutyrate | C(C)OC(CCCI)=O | C6H11IO2
reactant | dicyclohexylamine | C1(CCCCC1)NC1CCCCC1 | C12H23N
product | 5-[[(1-Heptenyl)carbonyl]methoxyamino]pentanoic acid | C(=CCCCCC)C(=O)CONCCCCC(=O)O | C14H25NO4
